US07691882B2
5-(2-Nitro-ethyl)-2-phenoxy-pyridine
To a solution of 5-((E)-2-nitro-vinyl)-2-phenoxy-pyridine described in Manufacturing Example 232-1-3 (5.97 g, 24.6 mmol) and acetic acid (3.2 mL) in dimethyl sulfoxide (52 mL) was added sodium borohydrate (1.4 g, 36.9 mmol), at room temperature while cooling appropriately. This mixture was stirred for 30 minutes at room temperature. This mixture was cooled appropriately, then, water was added, which was stirred for 30 minutes at room temperature. This mixture was liquid-separated, and the organic layer was separated. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and then filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (5.72 g) as a crude product.

reactant | 5-((E)-2-nitro-vinyl)-2-phenoxy-pyridine | [N+](=O)([O-])/C=C/C=1C=CC(=NC1)OC1=CC=CC=C1 | C13H10N2O3
reactant | acetic acid | 3.2 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydrate | 36.9 mmol, 1.4 g | [B-].[Na+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 52 mL | CS(=O)C | C2H6OS
product | 5-(2-Nitro-ethyl)-2-phenoxy-pyridine | 5.72 g | [N+](=O)([O-])CCC=1C=CC(=NC1)OC1=CC=CC=C1 | C13H12N2O3
